US05877202
5-Methoxy-1-benzyl-1H-indole-3-carboxylic acid methyl ester
Prepare by a method similar to Example 48 using 5-methoxy-1H-indole-3-carboxylic acid methyl ester and benzyl bromide.

reactant | 5-methoxy-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CNC2=CC=C(C=C12)OC | C11H11NO3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-Methoxy-1-benzyl-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=C(C=C12)OC)CC1=CC=CC=C1 | C18H17NO3
